US09382243B2
4-(4-chlorophenyl)-1-(methylsulfonyl)-1,2,3,6-tetrahydropyridine
4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridine (645 mg, 3.33 mmol) was dissolved in DCM (20 ml) and then DMAP (40.7 mg, 0.333 mmol), triethylamine (1.858 ml, 13.33 mmol), and methane sulfonylchloride (0.286 ml, 3.67 mmol) were added. The reaction was stirred 1 h at rt, then diluted with DCM and saturated NH4Cl/water (1:1). The aqueous phase was extracted with DCM (×2) and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 50 g column by eluting with 10% to 100% EtOAc:Hexane to provide the desired product. LC-MS: calculated for C12H14ClNO2S 271.04 observed m/e: 271.91 (M+H)+ (Rt 1.15/2 min).

reactant | 4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridine | 3.33 mmol, 645 mg | ClC1=CC=C(C=C1)C=1CCNCC1 | C11H12ClN
reactant | triethylamine | 13.33 mmol, 1.858 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulfonylchloride | 3.67 mmol, 0.286 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.333 mmol, 40.7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NH4Cl water | [NH4+].[Cl-].O
product | 4-(4-chlorophenyl)-1-(methylsulfonyl)-1,2,3,6-tetrahydropyridine | ClC1=CC=C(C=C1)C=1CCN(CC1)S(=O)(=O)C | C12H14ClNO2S
